US07250479B2
Preparation of 1-(4-methoxyphenyl)ethyl dithiobenzoate (11) (C, p=1, R=4—CH3OC6H4(CH3)CH; Z=Ph)
A mixture of dithiobenzoic acid (3.6 g), 4-vinylanisole (2.9 g) and carbon tetrachloride (20 mL) were heated at 70° C. overnight. The solvent was evaporated and the residue subjected to column chromatography (aluminium oxide (activity III) column, 2% diethyl ether in n-hexane eluent) which gave the title compound (53% yield). 1H-nmr (CDCl3) d (ppm): 1.80 (d, 3H, SCHCH3); 3.80 (s, 3H, OCH3); 5.22 (q, 1H, SCHCH3) and 6.88-7.97 (m, 9H, ArH).

reactant | dithiobenzoic acid | 3.6 g | C(C1=CC=CC=C1)(=S)S | C7H6S2
reactant | 4-vinylanisole | 2.9 g | C(=C)C1=CC=C(C=C1)OC | C9H10O
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-methoxyphenyl)ethyl dithiobenzoate | 53% yield | C(C1=CC=CC=C1)(=S)SC(C)C1=CC=C(C=C1)OC | C16H16OS2
